### PR TITLE
Remove stale (1.x) deprecation warnings and their associated names

### PR DESCRIPTION
**Pull request by silas-hw**
Any deprecation warning mentioning 'v1.x' has been removed, alongside their associated name or module, as @JacquesCarette requested. Some entire modules were removed as well if they were marked as deprecated.

This only had a few follow on breakages that needed fixing too:
- Some mentions of `Algebra.Morphism.Definitions.Morphism` needed to be changed to `F.Carrier -> T.Carrier`
- `^-semigroup-morphism` and `^-monoid-morphism` needed their signatures updating to use `IsMagmaHomomorphism` and `IsMonoidHomomorphism` respectively, which is also invovled needing new proofs. The former involved adding a new lemma named `cong-IsRelHomomorphism` and placed in a new module called `Relation.Binary.Morphism.Construct.PropositionalEquality`
    - The new lemma can be renamed and moved, or even in-lined, if needed

I also patched two warnings I got but I believe those were from building with the latest version of Agda as opposed to the latest release, so can revert those too if needed.

### CODE REVIEW

**Comment by jamesmckinna** [comment]
I think some of these changes are erroneous... I'll look at them properly in the morning. 

Specifically, I think some of the exports of #2980 seem to have been reverted by this PR?

`Data.List.Fresh` seems to have a v1.4 warning marked as v2.4, which if correct should not be removed. 

The `Morphism` patches seem to suggest that deprecated names had previously slipped past the warning mechanisms, and if so should be looked at carefully. 

The `Data.Record` issue has been answered elsewhere (see https://github.com/agda/agda-stdlib/pull/2986), and should not be patched with a `LIE`... in any case this PR should be run against v2.8 of Agda, not the current master branch.

A number of v2.0 PRs introduced warning suppressions in order to accommodate v1.x era deprecations, and these should be carefully revisited to see if such warning suppression is still needed.  

Mildly troubling on a first skim read.

**Comment by silas-hw** [comment]
I'll revert everything I did by mistake by using 2.9 in the morning, which should only be the pattern attribute and eta equality pragma. Sorry about that.

I'l look into the v2.0 suppressions too, I was unaware of those.

In terms of #2980 I think it was just`_≈?_` that was removed. On my end it seemed like there was a deprecation warning attached to it, but I may have been mistaken.

**Comment by silas-hw** [comment]
It was `_≈?_` from Data.Char.Properties, and an import of that. It did have a v1.x deprecation warning, unless you mean something else @jamesmckinna ?

**Comment by jamesmckinna** [comment]
> It was `_≈?_` from Data.Char.Properties, and an import of that. It did have a v1.x deprecation warning, unless you mean something else @jamesmckinna ?

Well... this one is a slightly sad case of 'forgetting the lessons of history' (as `stdlib` maintainers/developers we are condemned to repeat them):
* Indeed, v1.x originally used the `_≈?_` notation, which was then deprecated in favour of... other things
* BUT v3.0 reinstates this choice! PR #2980 and the subsequent #3010 / #3028 / #3029

So, rather in the way that `git` itself can be very annoying in making you repeat commits when resolving merge conflicts etc., here is an annoying case where 'just' removing v1.x deprecations is unfortunately not the whole story!

Shoutout to @MatthewDaggitt and @JacquesCarette for the 'best' approach to resolving this? ideally, merging #3029 first?

**Comment by jamesmckinna** [comment]
As with some of the other items I queried (eg `Data.List.Fresh`), it's also probably worth looking at the blame history of each file just to try to build a mental model of what's there, and why. This may also help with the v2.0-era warning suppressions?

File: src/Data/Char.agda [hunk 1]
```diff
@@ -13,4 +13,4 @@ module Data.Char where
 
 open import Data.Char.Base public
 open import Data.Char.Properties
-  using (_≈?_; _≟_; _≡?_; _<?_; _≤?_; _==_) public
+  using (_≟_; _≡?_; _<?_; _≤?_; _==_) public
```
Comment (jamesmckinna) [inline src/Data/Char.agda]: This edit should be reverted: the purpose of #2980 requires *both* `_≈?_` (the v3.0-'official' notation) *and* `_≟_` (deprecated) to be exported for backwards compatibility...

But also, `_==_` is also now deprecated in favour of `_≡ᵇ_`, so that needs to be added to this export list (this slipped through #2980 so should get fixed...)

File: src/Data/Record.agda [hunk 2]
```diff
@@ -62,6 +62,7 @@ mutual
   -- Record is a record type to ensure that the signature can be
   -- inferred from a value of type Record Sig.
 
+  {-# ETA_EQUALITY #-} -- Lie to get std-lib building
```
Comment (jamesmckinna) [inline src/Data/Record.agda]: As discussed.

File: src/Relation/Binary/Morphism/Construct/PropositionalEquality.agda [hunk 3]
```diff
@@ -0,0 +1,16 @@
...
+-- Propositional Equality Lemmas over Morphisms
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+open import Agda.Builtin.Equality using (_≡_)
+open import Relation.Binary.PropositionalEquality.Core using (cong)
+open import Relation.Binary.Morphism.Structures using (IsRelHomomorphism)
+
+module Relation.Binary.Morphism.Construct.PropositionalEquality where
```
Comment (jamesmckinna) [inline src/Relation/Binary/Morphism/Construct/PropositionalEquality.agda]: I'm still not convinced that this module is actually necessary, compared to eg inlining the single definition `cong-IsRelHomomorphism` you introduce?

File: src/Tactic/RingSolver/Core/AlmostCommutativeRing.agda [hunk 4]
```diff
@@ -94,7 +94,7 @@ record _-Raw-AlmostCommutative⟶_
     module T = AlmostCommutativeRing To
   open Morphism.Definitions F.Carrier T.Carrier T._≈_
   field
-    ⟦_⟧    : Morphism
+    ⟦_⟧    : F.Carrier → T.Carrier
```
Comment (jamesmckinna) [inline src/Tactic/RingSolver/Core/AlmostCommutativeRing.agda:97]: This seems OK, but still a bit weird that `Morphism` hadn't already be flagged as deprecated. This may be the annoying and recurrent bug in Agda about warnings *not* being triggered when opening *parametrised* modules. Sigh.

File: src/Algebra/Solver/Ring/AlmostCommutativeRing.agda [hunk 5]
```diff
@@ -88,7 +88,7 @@ record _-Raw-AlmostCommutative⟶_
     module T = AlmostCommutativeRing To
   open MorphismDefinitions F.Carrier T.Carrier T._≈_
   field
-    ⟦_⟧    : Morphism
+    ⟦_⟧    : F.Carrier → T.Carrier
```
Comment (jamesmckinna) [inline src/Algebra/Solver/Ring/AlmostCommutativeRing.agda:91]: I personally would have been so tempted to write:
```suggestion
    ⟦_⟧    : _
```
here instead, but I have a feeling that @JacquesCarette would not go along with such a deep cut...

File: src/Algebra/Morphism.agda [hunk 6]
```diff
@@ -28,181 +28,3 @@ module Definitions {a b ℓ₁} (A : Set a) (B : Set b) (_≈_ : Rel B ℓ₁) w
   open MorphismDefinitions A B _≈_ public
 
 open import Algebra.Morphism.Structures public
-
```
Comment (jamesmckinna) [inline src/Algebra/Morphism.agda:31]: Note to the `stdlib` maintainers: once these deprecations are removed, we should *seriously* reconsider the value of this module, and its re-export 'strategy'. Baroque hardly covers it! Raised separately as #3035 .

File: src/Data/List/Fresh/Membership/Setoid/Properties.agda [hunk 7]
```diff
@@ -158,18 +158,3 @@ All[x≉]-∉ : All (x ≉_) xs → x ∉ xs
...
--- Please use the new names as continuing support for the old names is
--- not guaranteed.
-
--- Version 2.4
-
-≈-subst-∈ = ∈-resp-≈
-{-# WARNING_ON_USAGE ≈-subst-∈
-"Warning: ≈-subst-∈ was deprecated in v1.4.
-Please use ∈-resp-≈ instead."
-#-}
```
Comment (jamesmckinna) [inline src/Data/List/Fresh/Membership/Setoid/Properties.agda:175]: This edit should be reverted, as it *is* a v2.4 deprecation (check the `git` blame), but the warning message was mistyped (by me!) and should read `v2.4` where it says `v1.4`!!!

File: src/Data/Nat/Properties.agda [hunk 8]
```diff
@@ -1083,15 +1084,15 @@ m<n⇒m<o*n = m≤n⇒m≤o*n
   (n * o) * (n ^ m * o ^ m) ≡⟨ [m*n]*[o*p]≡[m*o]*[n*p] n o (n ^ m) (o ^ m) ⟩
   n ^ suc m * o ^ suc m     ∎
 
-^-semigroup-morphism : ∀ {n} → (n ^_) Is +-semigroup -Semigroup⟶ *-semigroup
+^-semigroup-morphism : ∀ {n} → IsMagmaHomomorphism +-rawMagma *-rawMagma (n ^_) -- (∀ {n} → (n ^_))
 ^-semigroup-morphism = record
-  { ⟦⟧-cong = cong (_ ^_)
-  ; ∙-homo  = ^-distribˡ-+-* _
+  { isRelHomomorphism = cong-IsRelHomomorphism (_ ^_)
```
Comment (jamesmckinna) [inline src/Data/Nat/Properties.agda]:
```suggestion
  { isRelHomomorphism = record { cong = cong (_ ^_) }
```
suffices, surely?

File: src/Data/Nat/Properties.agda [hunk 9]
```diff
@@ -1083,15 +1084,15 @@ m<n⇒m<o*n = m≤n⇒m≤o*n
   (n * o) * (n ^ m * o ^ m) ≡⟨ [m*n]*[o*p]≡[m*o]*[n*p] n o (n ^ m) (o ^ m) ⟩
   n ^ suc m * o ^ suc m     ∎
 
-^-semigroup-morphism : ∀ {n} → (n ^_) Is +-semigroup -Semigroup⟶ *-semigroup
+^-semigroup-morphism : ∀ {n} → IsMagmaHomomorphism +-rawMagma *-rawMagma (n ^_) -- (∀ {n} → (n ^_))
```
Comment (jamesmckinna) [inline src/Data/Nat/Properties.agda]: It is indeed *very* unfortunate that this syntax slipped through the v1.5 deprecation cycle!
Your fix is a good one, but:
* delete the `-- (∀ {n} → (n ^_))` comment
* the `isRelHomomorphism` field should be inlined with `cong`, not creating a new module for the sake of it

I would even be tempted to deprecate these non-standard names for the morphisms, in favour of a more orthodox `^-isMagmaHomomorphism` etc. but we can probably handle that downstream.

File: src/Data/Nat/Properties.agda [hunk 10]
```diff
@@ -1083,15 +1084,15 @@ m<n⇒m<o*n = m≤n⇒m≤o*n
...
-  ; ∙-homo  = ^-distribˡ-+-* _
+  { isRelHomomorphism = cong-IsRelHomomorphism (_ ^_)
+  ; ∙-homo = ^-distribˡ-+-* _
   }
 
-^-monoid-morphism : ∀ {n} → (n ^_) Is +-0-monoid -Monoid⟶ *-1-monoid
+^-monoid-morphism : ∀ {n} →  IsMonoidHomomorphism +-0-rawMonoid *-1-rawMonoid (n ^_)
 ^-monoid-morphism = record
-  { sm-homo = ^-semigroup-morphism
+  { isMagmaHomomorphism = ^-semigroup-morphism
```
Comment (jamesmckinna) [inline src/Data/Nat/Properties.agda]: Ditto. re: possible v3.0 deprecations in favour of 'standard' naming?

**Review by jamesmckinna — CHANGES_REQUESTED** [review]
Thanks very much for this first PR, which does valuable infrastructural work.

Apologies for my initial reaction, but hopefully the review comments help explain such reactions!

**Comment by silas-hw** [comment]
Should have fixed most things, other than those more open to discussion with other maintainers.

**Comment by silas-hw** [comment]
I'll check through the suppressions and such now. Perhaps best to review after I've sorted those out too, unless it's more suitable for a separate PR.

File: src/Algebra/Solver/Ring/AlmostCommutativeRing.agda (hunk 5 above)
Comment (JacquesCarette) [reply src/Algebra/Solver/Ring/AlmostCommutativeRing.agda:91]: Your feeling is correct. Explicit signatures are useful as documentation. I'm fine with `_` in some proofs,  but really not in signatures.

**Comment by silas-hw** [comment]
I could only find 1 suppression hiding a 1.x warning (removed in latest commit). The rest were all hiding 2.x or 3.x warnings.

**Comment by jamesmckinna** [comment]
Let's run this, and see what comes back from testing. 
* I still think that the `Data.Char.Properties` might need some more work.
* I'd dearly like to eliminate the `Data.Nat.Properties` `*morphism` definitions in favour of better ones UPDATED as I suspected, deleting the dprecations even makes these objects undefined, and the warnings aren't triggered because they arise from `syntax` declarations which don't (seem to) give rise to `WARNING_ON_USE`!?
* Will review again once the tests run.

**Comment by JacquesCarette** [comment]
FYI: `test-stdlib` failed on `Function/Endomorphism/Setoid` checking for the existence of `IsSemigroupMorphism`. But this did not fail when typechecking! Is there something different about `test-stdlib`'s environment?

File: src/Data/Char.agda [hunk 11]
```diff
@@ -13,4 +13,4 @@ module Data.Char where
 
 open import Data.Char.Base public
 open import Data.Char.Properties
-  using (_≈?_; _≟_; _≡?_; _<?_; _≤?_; _==_) public
+  using (_≈?_;_≟_; _≡?_; _<?_; _≤?_; _≡ᵇ_) public
```
Comment (JacquesCarette) [inline src/Data/Char.agda]:
```suggestion
  using (_≈?_; _≟_; _≡?_; _<?_; _≤?_; _≡ᵇ_) public
```

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
One minor thing - but I am otherwise happy with the state of this PR as it stands now.

**Comment by JacquesCarette** [comment]
@jamesmckinna said:
>     * I still think that the `Data.Char.Properties` might need some more work.

Details? I did not see anything obvious. And for *this* PR or a subsequent one?

>     * I'd dearly like to eliminate the `Data.Nat.Properties` `*morphism` definitions in favour of better ones UPDATED as I suspected, deleting the dprecations even makes these objects undefined, and the warnings aren't triggered because they arise from `syntax` declarations which don't (seem to) give rise to `WARNING_ON_USE`!?

Subsequent PR or required here?

File: src/Data/Char.agda (hunk 11 above)
Comment (jamesmckinna) [reply src/Data/Char.agda]: And in fact, for backwards-compatibility with the v3.0 fieldname/operation name changes in #2980 we *actually* need also to export `_==_`. Sorry if that hadn't been clearer earlier in my ramblings:
```suggestion
  using (_≈?_; _≟_; _≡?_; _<?_; _≤?_; _≡ᵇ_; _==_) public
```

This is the change I alluded to earlier under `Data.Char.*`... and then we can deprecate all of these 'old' names once we get to v4.0 (or even v3.999999 if we're feeling bold).

**Comment by jamesmckinna** [comment]
So the `-morphism` changes required by the now-failing tests are, I think best addressed two-fold
* for *this* PR, simply comment out the code (it should never have lasted this long!), but clearly the failing test code needs looking at ... UPDATED actually the redefinitions of the homomorphisms in `Dat.Nat.Properties` is probably the better approach on reflection, but should be documented as a `Non-backwards-compatible` change in the `CHANGELOG`, preferably with a comment under `Highloights` about the removal of all the old dead code?
* for a subsequent PR, we need to lift up the existing `-cong` and `-homo` proofs in `Algebra.Properties.RawRing.Exp` to witness actually having an `IsMonoidHomomorphism` of the right kind, and similarly (I think!?) `Algebra.Properties.RawMagma.Mult` (or `Sum`?) for an `IsMagmaHomomorphism` ...

Tragically, even the old design is Just Plain Wrong under our new approach of defining `IsXHomomorphism` structures on the *`Raw`* bundles of the underlying algebras `X`. As a consequence of which, `IsSemigroupHomomorphism` no longer makes any sense at all, only `IsMagmaHomomorphism`... and any such thing *automatically* will preserve any instances of `assoc` which happen to hold, so there's actually *no* way to stipulate that as 'extra structure'.

**Comment by jamesmckinna** [comment]
Regarding the failing test, remember @JacquesCarette that for Reasons (I think @gallais explained it to me, but I'm not sure I successfully internalised the explanation), we *also* recheck even deprecated modules as part of the testing workflow (I've been caught out by this before), as a result of which, PRs can require to edit deprecated definitions and modules in order to still typecheck OK. 

The failure in `Function.Endomorphism.Setoid` arises from ... the concept which I observe above is no longer even well-formed, namely `IsSemigroupHomomorphism`. The module is deprecated, so we can simply remove the offending definition altogether, I think? But @silas-hw you'll need to add that to the list of modules touched by this PR.

The irony that this is a v2.1 deprecation is... not lost on me.

**Comment by MatthewDaggitt** [comment]
> Well... this one is a slightly sad case of 'forgetting the lessons of history' (as stdlib maintainers/developers we are condemned to repeat them):
>
>    Indeed, v1.x originally used the _≈?_ notation, which was then deprecated in favour of... other things
    BUT v3.0 reinstates this choice! PR https://github.com/agda/agda-stdlib/pull/2980 and the subsequent https://github.com/agda/agda-stdlib/issues/3010 / https://github.com/agda/agda-stdlib/pull/3028 / https://github.com/agda/agda-stdlib/pull/3029
>
> So, rather in the way that git itself can be very annoying in making you repeat commits when resolving merge conflicts etc., here is an annoying case where 'just' removing v1.x deprecations is unfortunately not the whole story!

I'm not sure how true it is that we're repeating. We got rid of the `_≈?_` notation in order to standardise it, rather than any principled decision of what was the best notation. We just standardised it in the wrong direction :sweat:

**Comment by silas-hw** [comment]
I've added changes to the CHANGELOG. I've listed every module/submodule that has been removed entirely, but can shorten it if needed.

The tests should all pass now too, unless something else crops up...

**Review by JacquesCarette — APPROVED** [review]
I think this is now ready to go. @jamesmckinna ?

**Review by JacquesCarette — APPROVED** [review]

**Comment by silas-hw** [comment]
Same issue as before with the tests, but this time in `Function.Endomorphism.Propositional`. Applied the same fix  (just remove them) since it's also a v2 deprecated module.

File: CHANGELOG.md [hunk 12]
```diff
@@ -21,6 +21,33 @@ Highlights
...
+  - `Data.AVL.Value`
+  - `Data.AVL`
+  - `Foreign.Haskell.Maybe`
+  - `Relation.Binary.OrderMorphism`
+  - `Text.Tree.Linear`
+  - `Strict`
+
+  Several Definitions from other modules have also been removed.
+
+* `^-isSemigroupMorphism` and `^-isMonoidMorphism` from both `Function.Endomorphism.Setoid` and `Function.Endomorphism.Propositional` have been removed
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Actually, I think this doesn't belong under `Highlights`. As already discussed, removal of items from already-deprecated modules is necessary hygiene for successful testing/merging, but I don't think individual such items merit discussion.

The standard rubric for `DEPRECATED NAMES` states that
"-- Please use the new names as continuing support for the old names is
-- not guaranteed.
"
So I would hope we consider that such advice applies all the more strongly to `DEPRECATED` modules. 

```suggestion
```

File: src/Data/Nat/Properties.agda [hunk 13]
```diff
@@ -1083,15 +1083,15 @@ m<n⇒m<o*n = m≤n⇒m≤o*n
   (n * o) * (n ^ m * o ^ m) ≡⟨ [m*n]*[o*p]≡[m*o]*[n*p] n o (n ^ m) (o ^ m) ⟩
   n ^ suc m * o ^ suc m     ∎
 
-^-semigroup-morphism : ∀ {n} → (n ^_) Is +-semigroup -Semigroup⟶ *-semigroup
+^-semigroup-morphism : ∀ {n} → IsMagmaHomomorphism +-rawMagma *-rawMagma (n ^_)
```
Comment (jamesmckinna) [inline src/Data/Nat/Properties.agda]: I've been thinking hard about this, but I would welcome additional input from @MatthewDaggitt .

After much reflection, and mindful that this is a 'deprecation'/non-backwards-compatible change that we failed to make in v2.x, that here we should (probably?):
* define, and add to `Additions to existing modules` a *new* definition
  ```agda
   ^-isMagmaHomomorphism : ∀ {n} → IsMagmaHomomorphism +-rawMagma *-rawMagma (n ^_)
   ```
   whose type/meaning is then clear and unambiguous, as well as 'rectified' to our existing style conventions.
* keep the note about non-backwards compatible change for the *old* name
* move `^-semigroup-morphism` to the end as a *v3.0*-deprecated name, and add it to the `CHANGELOG` as such.

Then users who (hopefully not) still have this name in their code
* get a warning to use a correctly-named alternative
* separately (probably still as an error) have documented the API change for the old name

This may seem a bit too much belt-and-braces, but I think it's  small price to pay for our earlier oversights?

File: src/Data/Nat/Properties.agda [hunk 14]
```diff
@@ -1083,15 +1083,15 @@ m<n⇒m<o*n = m≤n⇒m≤o*n
...
-  ; ∙-homo  = ^-distribˡ-+-* _
+  { isRelHomomorphism = record { cong = cong (_ ^_) }
+  ; ∙-homo = ^-distribˡ-+-* _
   }
 
-^-monoid-morphism : ∀ {n} → (n ^_) Is +-0-monoid -Monoid⟶ *-1-monoid
+^-monoid-morphism : ∀ {n} →  IsMonoidHomomorphism +-0-rawMonoid *-1-rawMonoid (n ^_)
 ^-monoid-morphism = record
-  { sm-homo = ^-semigroup-morphism
+  { isMagmaHomomorphism = ^-semigroup-morphism
```
Comment (jamesmckinna) [inline src/Data/Nat/Properties.agda]: Similarly, I think that here here we should (probably?):
* define, and add to `Additions to existing modules` a *new* definition
  ```agda
   ^-isMonoidHomomorphism : ∀ {n} → IsMagmaHomomorphism +-rawMagma *-rawMagma (n ^_)
   ^-isMonoidHomomorphism = record
   { isMagmaHomomorphism = ^-isMagmaHomomorphism```
   whose type/meaning is then clear and unambiguous, as well as 'rectified' to our existing style conventions.
* keep the note about non-backwards compatible change for the *old* name
* move `^-monoid-morphism` to the end as a *v3.0*-deprecated name, and add it to the `CHANGELOG` as such.

File: CHANGELOG.md [hunk 15]
```diff
@@ -61,6 +88,8 @@ Non-backwards compatible changes
   Data.Tree.Rose.Show
   ```
 
+* `^-semigroup-morphism` and `^-monoid-morphism` in `Data.Nat.Properties` have had their definitions and signatures updated to use `IsMagmaHomomorphism` and `IsMonoidHomomorphism` respectively, inline with the removal of 1.x deprecations.
```
Comment (jamesmckinna) [inline CHANGELOG.md]:
```suggestion
* `^-semigroup-morphism` and `^-monoid-morphism` in `Data.Nat.Properties`, deprecated below
   as part of removing v1.x-era deprecations, have moreover had their definitions and signatures
   updated to use `IsMagmaHomomorphism` and `IsMonoidHomomorphism` respectively
```

Suggestion optional, but the nitpick is that `CHANGELOG` markdown doesn't seem to text-wrap nicely unless you insert explicit linebreaks+paraindents, so I've hand-reformatted to a better line length. Not a deal breaker!

**Review by jamesmckinna — CHANGES_REQUESTED** [review]
Thanks @silas-hw for your patience with all the nitpicking from myself and others. 

A last couple of modifications to deal with the various late-breaking warts you've uncovered, and a more comprehensive treatment of the `Data.Nat.Properties.*-morphism` definitions.

@JacquesCarette you may find that this is me being overly fussy!

**Comment by jamesmckinna** [comment]
> > Well... this one is a slightly sad case of 'forgetting the lessons of history' (as stdlib maintainers/developers we are condemned to repeat them):
> > Indeed, v1.x originally used the _≈?_ notation, which was then deprecated in favour of... other things
> > BUT v3.0 reinstates this choice! PR #2980 and the subsequent #3010 / #3028 / #3029
> > So, rather in the way that git itself can be very annoying in making you repeat commits when resolving merge conflicts etc., here is an annoying case where 'just' removing v1.x deprecations is unfortunately not the whole story!
> 
> I'm not sure how true it is that we're repeating. We got rid of the `_≈?_` notation in order to standardise it, rather than any principled decision of what was the best notation. We just standardised it in the wrong direction 😓

@MatthewDaggitt apologies if my intentions/phrasing were unclear, I could have been a bit more thoughtful about what exactly I was trying to say! 

I don't think I had meant to throw shade on these particular historical *choices* of names or any other design element (there have been multiple such revisions (including my own!), and some have involved going back on things we had previously done), but rather at the general phenomenon, which occurs also elsewhere in this PR, that our particular (and largely laudable!) policy of refactoring/renaming-with-deprecation, as well as being a maintenance cost/'penalty' in and of itself, can sometimes it seems recharge that cost/reincur that penalty, when we come to 'deprecate the deprecations' by removing them! And that for me was/is the irony... ;-)

File: CHANGELOG.md (hunk 15 above)
Comment (silas-hw) [reply CHANGELOG.md]: Anything change to improve readability is welcome IMO

File: src/Data/Nat/Properties.agda (hunk 13 above)
Comment (silas-hw) [reply src/Data/Nat/Properties.agda]: This sounds reasonable to me. I'll await further feedback from other maintainers but if there's no gripes from anyone else I'm happy with these changes!

Comment (JacquesCarette) [reply src/Data/Nat/Properties.agda]: James' suggestion makes sense to me as well.

File: src/Data/Char/Properties.agda
Comment (gallais) [inline src/Data/Char/Properties.agda:69]: Could we redefine this explicitly in terms of `_≈?_`

Edit: let's do it in a separate PR though!

**Review by gallais — APPROVED** [review]

**Review by jamesmckinna — APPROVED** [review]
Thanks @silas-hw I've taken the liberty of a final couple of cosmetic tweaks, and enabled auto-merge, so this should at last draw a line under your first PR!

Many thanks again for your patience during the (many cycles of the) review process!
